US07163936B2
A solution of lithium hexamethyldisilazide in THF (1M, 0.16 ml, 0.16 mmol) was added at 0–5° C. to a solution of allyl (2S)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-3-(2-mercapto-1,3-thiazol-4-yl)-2,5-dihydro-1H-pyrrole-1-carboxylate (67 mg, 0.16 mmol) in THF (0.3 ml) and the mixture was stirred for 20 minutes. To the reaction solution was added at 0° C. a solution of allyl (4R,5R,6S)-3-[(diphenoxyphosphino)oxy]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate in acetonitrile (30%, 0.62 g, 0.32 mmol) and the solution was allowed to stand in a refrigerator for 12 hours. To the reaction solution was added ice water and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the solvent in vacuo, the residue was purified with silica gel chromatography (hexane/ethyl acetate: 1/5→1/3) to give a mixture of a coupling compound and POCA (Starting material). To the mixture in THF (2.4 ml) were added at 0–5° C. acetic acid (92 μl) and tetrabutylammonium fluoride in THF (1M, 0.96 ml, 0.96 mmol). After reaction for 20 hours, to the reaction mixture was added ice water and the solution was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the solvent in vacuo, the residue was purified with silica gel chromatography (hexane/ethyl acetate: 1/3→10% methanol/chloroform) to give allyl (4R,5S,6S)-3-({4-[(2S)-1-[(allyloxy)carbonyl]-2-(hydroxymethyl)-2,5-dihydro-1H-pyrrol-3-yl]-1,3-thiazol-2-yl}sulfanyl)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (83 mg, 95%).

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | allyl (2S)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-3-(2-mercapto-1,3-thiazol-4-yl)-2,5-dihydro-1H-pyrrole-1-carboxylate | 0.16 mmol, 67 mg | [Si](C)(C)(C(C)(C)C)OC[C@H]1N(CC=C1C=1N=C(SC1)S)C(=O)OCC=C | C18H28N2O3S2Si
reactant | allyl (4R,5R,6S)-3-[(diphenoxyphosphino)oxy]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | O(C1=CC=CC=C1)P(OC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC=C)OC1=CC=CC=C1 | C28H34NO7PSi
reactant | acetonitrile | 0.32 mmol, 0.62 g | C(C)#N | C2H3N
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 0.3 ml | C1CCOC1 | C4H8O
solvent | THF | 2.4 ml | C1CCOC1 | C4H8O
solvent | THF | 0.96 mmol, 1M, 0.96 ml | C1CCOC1 | C4H8O
solvent | THF | 0.16 mmol, 1M, 0.16 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 92 μl | C(C)(=O)O | C2H4O2
product | allyl (4R,5S,6S)-3-({4-[(2S)-1-[(allyloxy)carbonyl]-2-(hydroxymethyl)-2,5-dihydro-1H-pyrrol-3-yl]-1,3-thiazol-2-yl}sulfanyl)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 83 mg, 95% | C(C=C)OC(=O)N1[C@@H](C(=CC1)C=1N=C(SC1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CO | C25H29N3O7S2
